US07291631B2
To a solution of azetidin-3-ylmethyl-bis-(3-methyl-pyridin-2-ylmethyl)-amine (0.4739 g, 1.6 mmol) in CH2Cl2 (16 mL) were added DIPEA (0.56 mL, 3.2 mmol), and methyl bromoacetate (0.18 mL, 1.9 mmol). The mixture was stirred at room temperature for 19 hours, and then saturated NaHCO3 (15 mL) was added and extracted with CH2Cl2 (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated. Purification of the crude material by column chromatography on silica gel (100:1:1 CH2Cl2-MeOH—NH4OH) provided 0.1411 g (24%) of (3-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-azetidin-1-yl)-acetic acid methyl ester as a yellow sticky oil. 1H NMR (CDCl3) δ 2.09 (s, 6H), 2.53-2.58 (m, 2H), 2.65-2.78 (m, 3H), 3.10 (s, 2H), 3.51 (t, 2H, J=6.0 Hz), 3.65 (s, 3H), 3.68 (s, 4H), 7.06-7.10 (m, 2H), 7.38 (d, 2H, J=9.0 Hz), 8.35 (d, 2H, J=6.0 Hz).

reactant | azetidin-3-ylmethyl-bis-(3-methyl-pyridin-2-ylmethyl)-amine | 1.6 mmol, 0.4739 g | N1CC(C1)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1C | C18H24N4
reactant | DIPEA | 3.2 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl bromoacetate | 1.9 mmol, 0.18 mL | BrCC(=O)OC | C3H5BrO2
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
product | (3-{[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-azetidin-1-yl)-acetic acid methyl ester | 0.1411 g, 24% | COC(CN1CC(C1)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1C)=O | C21H28N4O2
